US05153203
7-(3-Pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-8-methoxy-1,4--dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (Compound No. 43)
The whole amount of the 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid obtained above was dissolved in a mixture which consisted of 1.25 ml of concentrated hydrochloric acid and 5 ml of acetic acid. The resultant solution was heated under reflux for 1 hour. The reaction mixture was concentrated to dryness under reduced pressure. The residue thus obtained was recrystallized from ethanol, whereby 120 mg of the title compound was obtained as colorless needle crystals.

reactant | 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C23H27FN2O7
reactant | hydrochloric acid | 1.25 ml | Cl | ClH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-8-methoxy-1,4--dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 120 mg | Cl.N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | InChI=1S/C18H19FN2O5.ClH/c1-25-17-14-11(6-13(19)16(17)26-10-4-5-20-7-10)15(22)12(18(23)24)8-21(14)9-2-3-9;/h6,8-10,20H,2-5,7H2,1H3,(H,23,24);1H
